US07709500B2
1-Oxo-7-sulfo 1,2-dihydroisoquinoline-4-carboxylic acid (5 g) was added to chlorosulphonic acid (25 ml). The mixture was heated at 100° C. for 84 h and then slowly dripped onto ice with sting. The mixture was filtered and the residue was washed with water and ether and dried to yield 7-(chlorosulfonyl)-1-oxo-1,2-dihydroisoquinoline-4-carboxylic acid as a buff solid (7.5 g).

reactant | 1-Oxo-7-sulfo 1,2-dihydroisoquinoline-4-carboxylic acid | 5 g | O=C1NC=C(C2=CC=C(C=C12)S(=O)(=O)O)C(=O)O | C10H7NO6S
reactant | chlorosulphonic acid | 25 ml | ClS(=O)(=O)O | ClHO3S
product | 7-(chlorosulfonyl)-1-oxo-1,2-dihydroisoquinoline-4-carboxylic acid | ClS(=O)(=O)C1=CC=C2C(=CNC(C2=C1)=O)C(=O)O | C10H6ClNO5S
